US04585770
3 g of sodium cyanoborohydride were added over 15 minutes at 0° to 5° C. to a mixture of 6 g of (6RS, trans) 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one, 60 ml of methanol and 30 ml of acetone and the mixture was stirred at room temperature for 3 hours and was evaporated to dryness under reduced pressure. The residue was added to 60 ml of water and the mixture was extracted with chloroform. The organic phase was dried and evaporated to dryness to obtain 3.6 g of (6RS,trans) 6-isopropylamino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one melting at ≃166° C. The latter was dissolved in 60 ml of ethanol and ethyl acetate saturated with hydrogen chloride was added thereto. The mixture was vacuum filtered to obtain 3.7 g of the corresponding hydrochloride melting at ≃270° C. The product was dissolved in hot methanol and ethyl acetate was added to obtain 3.3 g of the said product melting at ≃270° C.

reactant | sodium cyanoborohydride | 3 g | C(#N)[BH3-].[Na+]
reactant | 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one | NC1CCN2C3=C(C1O)C=CC=C3NC2=O | C11H13N3O2
reactant | methanol | 60 ml | CO | CH4O
reactant | acetone | 30 ml | CC(=O)C | C3H6O
product | (6RS,trans) 6-isopropylamino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one | 3.6 g | C(C)(C)N[C@@H]1CCN2C3=C([C@H]1O)C=CC=C3NC2=O | C14H19N3O2
